US05122529
A solution of 5-amino-2-fluoropyridine (6.63 g, 0.059 mol) and pyridine (5.16 g, 0.065 mol) in dichloromethane (120 ml) was stirred at room temperature. Cyclopropane carboxylic acid chloride (6.2 g, 0.059 mol) was added dropwise to the reaction mixture at such a rate to maintain the temperature at 20°-30° C. After complete addition the reaction mixture was stirred at temperature for a further one hour, then washed with 5% sodium hydroxide (100 ml), water (100 ml) and dried over anhydrous magnesium sulphate. Removal of the solvent gave a dark brown solid which was purified by column chromatography (silica eluted with dichloromethane : tetrahydrofuran=9:1) to give N-(2-fluoro-5-pyridyl)cyclopropane carboxamide (7.7 g, 72%) as an orange brown solid m.p. 116°-117° C.

reactant | 5-amino-2-fluoropyridine | 0.059 mol, 6.63 g | NC=1C=CC(=NC1)F | C5H5FN2
reactant | pyridine | 0.065 mol, 5.16 g | N1=CC=CC=C1 | C5H5N
reactant | Cyclopropane carboxylic acid chloride | 0.059 mol, 6.2 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-(2-fluoro-5-pyridyl)cyclopropane carboxamide | 7.7 g, 72% | FC1=NC=C(C=C1)NC(=O)C1CC1 | C9H9FN2O
